US04710491
N-Octadecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)-tetradecanoic acid amide
The preparation is analogous to Example 20 from N-acetylglucosamine, stearylamine and tetradecanoic acid chloride.

reactant | N-acetylglucosamine | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | stearylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | tetradecanoic acid chloride | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
product | N-Octadecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)-tetradecanoic acid amide | C(CCCCCCCCCCCCCCCCC)N(C(CCCCCCCCCCCCC)=O)C1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(C)=O | C40H78N2O6
